US04623652
(a) Methyl 2-Hydroxycinnamate
A solution of 200 g (1.218 mole) of 2-hydroxycinnamic acid in 2 L of anhydrous methanol was treated with 10 drops of concentrated sulfuric acid. This solution was refluxed for 72 hr., using a Soxhlet extractor charged with 200 g of 3 A molecular sieves. The methanolic solution was then concentrated under reduced pressure and cooled to afford 200 g (92%) of white crystals, which were used directly in the next step without additional purification.

reactant | 2-hydroxycinnamic acid | 1.218 mole, 200 g | OC1=C(C=CC(=O)O)C=CC=C1 | C9H8O3
reactant | methanol | 2 L | CO | CH4O
catalyst | sulfuric acid | 10 drops | S(O)(O)(=O)=O | H2O4S
product | Methyl 2-Hydroxycinnamate | 200 g, 92% | OC1=C(C=CC(=O)OC)C=CC=C1 | C10H10O3
